US06713474B2
A mixture of ethyl 2-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]propionate (201 mg), aqueous potassium hydroxide solution (4 ml of 2M solution) and methanol (20 ml) was boiled under reflux for 1 hour. The mixture was concentrated under reduced pressure to around 5 ml and then diluted with water (30 ml). The mixture was hot filtered and filtrate was cooled and then acidified with dilute acetic acid until no further precipitation occurred. The mixture was heated on a hot plate until the gel which had been obtained became a finely divided solid. The solid was collected by filtration to give 2-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]propionic acid, m.p. 239.5-241° C.

reactant | ethyl 2-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]propionate | 201 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C(C(=O)OCC)C | C23H22N4O3
reactant | potassium hydroxide | 2M, 4 ml | [OH-].[K+]
solvent | methanol | 20 ml | CO | CH4O
product | 2-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]propionic acid | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C(C(=O)O)C | C21H18N4O3
